US06541499B1
B. Methyl 4-[2-(1-Pyrrolidinyl)ethoxy]benzoate
To a solution of methyl 4-hydroxybenzoate (4.56 g, 30 mmol) in dry DMF (60 mL) was added cesium carbonate (31.3 g, 96 mmol, 3.2 eq.) and 1-(2-chloroethyl)pyrrolidine hydrochloride (8.1 g, 48 mmol, 1.6 eq.). The reaction was heated at 80° C. for 20 h. The reaction mixture was cooled to ambient temperature then water (240 mL) was added. The mixture was partitioned with ethyl acetate (250 mL). The aqueous layer was extracted with ethyl acetate (50 mL). The combined extracts were washed with water (240 mL), brine (50 mL), dried (Na2SO4), filtered then concentrated to dryness under reduced pressure. The residue was purified by flash chromatography (90:5:5 hexane:THF:TEA) to give the desired product as an oil (5.3 g, 71%).

reactant | methyl 4-hydroxybenzoate | 30 mmol, 4.56 g | OC1=CC=C(C(=O)OC)C=C1 | C8H8O3
reactant | cesium carbonate | 96 mmol, 31.3 g, 3.2 eq. | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | 1-(2-chloroethyl)pyrrolidine hydrochloride | 48 mmol, 8.1 g, 1.6 eq. | Cl.ClCCN1CCCC1
reactant | water | 240 mL | O | H2O
solvent | DMF | 60 mL | CN(C)C=O | C3H7NO
product | Methyl 4-[2-(1-Pyrrolidinyl)ethoxy]benzoate | 5.3 g, 71% | N1(CCCC1)CCOC1=CC=C(C(=O)OC)C=C1 | C14H19NO3
